US09353086B2
2-Bromo-N-(cyclopropylmethyl)-1,3-thiazole-4-carboxamide
2-Bromothiazole-4-carboxylic acid (500 mg, 2.40 mmol), aminomethylcyclopropane (247 μL, 2.88 mmol), EDC.HCl (1.01 g, 5.29 mmol), HOBN (1.08 g, 6.01 mmol) and NEM (765 μL, 6.01 mmol) were dissolved in DCM (30 mL) and the reaction mixture was stirred for 16 h. The organic fraction was washed with sat aq NaHCO3 (30 mL), 1 M aq HCl (30 mL), dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography to give the title compound (404 mg, 64%) as a white solid. LCMS (ES+): 261.4 [MH]+.

reactant | 2-Bromothiazole-4-carboxylic acid | 2.40 mmol, 500 mg | BrC=1SC=C(N1)C(=O)O | C4H2BrNO2S
reactant | aminomethylcyclopropane | 2.88 mmol, 247 μL | NCC1CC1 | C4H9N
reactant | EDC.HCl | 5.29 mmol, 1.01 g | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromo-N-(cyclopropylmethyl)-1,3-thiazole-4-carboxamide | 404 mg, 64% | BrC=1SC=C(N1)C(=O)NCC1CC1 | C8H9BrN2OS
